US07820670B2
(Z)-3-(Hex-1-enyl)-N-(3-morpholinopropyl)imidazo[1,2-b]pyridazin-6-amine hydrochloride
3-(Hex-1-ynyl)-N-(3-morpholinopropyl)imidazo[1,2-b]pyridazin-6-amine (75 mg, 0.22 mmol) was dissolved in ethanol (4 mL) and Lindlar's catalyst (20 mg) added. After degassing with a nitrogen stream for 10 mins, the reaction was put under a balloon of hydrogen for 48 h. The solids were filtered off and the filtrate was concentrated. The obtained residue was purified by semi-prep HPLC to provide the free-base, which was subsequently converted to the HCl salt with 2N HCl in Et2O to provide the title compound (15 mg, 18%) as an orange solid; 1H NMR (300 MHz, CD3OD) δ 7.67 (d, J=9.6 Hz, 1H), 7.61 (d, J=4.9 Hz, 1H), 6.81-6.74 (m, 2H), 5.88 (dt, J=7.2, 16.2 Hz, 1H), 3.89 (m, 4H), 3.52 (t, J=6.5 Hz, 2H), 3.37-3.22 (m, 6H), 2.44-2.37 (m, 2H), 2.21-2.12 (m, 2H), 1.56-1.39 (m, 4H), 0.95 (t, J=7.1 Hz, 3H); 13C NMR (75 MHz, CD3OD) δ 155.6, 135.0, 127.9, 124.8, 115.8, 114.5, 65.3, 56.8, 53.4, 39.6, 32.6, 30.8, 24.5, 23.6, 14.3 (2 quaternary aromatic carbons did not show); HPLC tR=13.1 min (Synergi), 91.7%; ES-MS: (M+H)=344 m/z.

reactant | 3-(Hex-1-ynyl)-N-(3-morpholinopropyl)imidazo[1,2-b]pyridazin-6-amine | 0.22 mmol, 75 mg | C(#CCCCC)C1=CN=C2N1N=C(C=C2)NCCCN2CCOCC2 | C19H27N5O
reactant | HCl | Cl | ClH
reactant | HCl | 2N | Cl | ClH
solvent | ethanol | 4 mL | C(C)O | C2H6O
catalyst | Lindlar's catalyst | 20 mg | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | Et2O | CCOCC | C4H10O
product | (Z)-3-(Hex-1-enyl)-N-(3-morpholinopropyl)imidazo[1,2-b]pyridazin-6-amine hydrochloride | 15 mg, 18% | Cl.C(=C/CCCC)/C1=CN=C2N1N=C(C=C2)NCCCN2CCOCC2 | InChI=1S/C19H29N5O.ClH/c1-2-3-4-5-7-17-16-21-19-9-8-18(22-24(17)19)20-10-6-11-23-12-14-25-15-13-23;/h5,7-9,16H,2-4,6,10-15H2,1H3,(H,20,22);1H/b7-5-;
